US07435837B2
Treatment of (±)-[7-(3,5-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.22 g, 0.498 mmol) with sodium azide (0.08 g, 1.25 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-2-(azidomethyl)-7-(3,5-dichlorophenyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with triphenylphosphine (0.26 g, 0.997 mol) generally according to the procedure described for Example 21 afforded 0.08 g (49%) of (±)-1-[7-(3,5-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 165-168° C.; Anal. calcd. for C15H13Cl2NOHCl: C, 54.49; H, 4.27; N, 4.24. Found: C, 54.27; H, 3.95; N, 4.23.

reactant | (±)-[7-(3,5-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.498 mmol, 0.22 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=CC(=CC(=C2)Cl)Cl | C22H18Cl2O4S
reactant | sodium azide | 1.25 mmol, 0.08 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-7-(3,5-dichlorophenyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=CC(=CC(=C2)Cl)Cl | C15H11Cl2N3O
reactant | azide | [N-]=[N+]=[N-]
reactant | triphenylphosphine | 0.997 mol, 0.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (±)-1-[7-(3,5-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.08 g, 49% | ClC=1C=C(C=C(C1)Cl)C1=CC=CC=2CC(OC21)CN | C15H13Cl2NO
